US09056874B2
(±)-2-((5-Ethyl-7-methyl-3-phenyl-1H-indol-4-yl)(hydroxy)methyl)-1H-benzo[d]imidazole-5-carbonitrile
A mixture of (±)-2-((5-ethyl-7-methyl-3-phenyl-1-tosyl-1H-indol-4-yl)(hydroxy)methyl)-1H-benzo[d]imidazole-5-carbonitrile (20 mg, 0.036 mmol) and KOH (10 mg, 0.178 mmol) was stirred at 100° C. for 0.5 h under microwave irradiation. The reaction mixture was diluted with CH2Cl2. The mixture was filtered through silica gel. The silica gel cake was washed with CH2Cl2/MeOH (c.a. 9/1). After concentration, the filtrate was purified by silica gel flash column chromatography [CH2Cl2/(5% 2,2,2-trifluoroethanol in CH2Cl2)=95/5 to 40/60] to give the title compound. 1H NMR (400 MHz, ACETONITRILE-d3) δ ppm 9.54 (br. s., 1H), 7.93 (s, 1H), 7.70 (dd, J=1.30, 8.60 Hz, 1H), 7.63 (d, J=8.60 Hz, 1H), 7.03-7.38 (m, 6H), 6.99 (s, 1H), 6.59 (s, 1H), 2.53-2.54 (m, 5H), 0.98 (t, J=7.33 Hz, 3H). HRMS calcd. for C26H22N4O (M+H)+ 407.1872. found 407.1868.

reactant | (±)-2-((5-ethyl-7-methyl-3-phenyl-1-tosyl-1H-indol-4-yl)(hydroxy)methyl)-1H-benzo[d]imidazole-5-carbonitrile | 0.036 mmol, 20 mg | C(C)C=1C(=C2C(=CN(C2=C(C1)C)S(=O)(=O)C1=CC=C(C)C=C1)C1=CC=CC=C1)C(C1=NC2=C(N1)C=CC(=C2)C#N)O | C33H28N4O3S
reactant | KOH | 0.178 mmol, 10 mg | [OH-].[K+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (±)-2-((5-Ethyl-7-methyl-3-phenyl-1H-indol-4-yl)(hydroxy)methyl)-1H-benzo[d]imidazole-5-carbonitrile | C(C)C=1C(=C2C(=CNC2=C(C1)C)C1=CC=CC=C1)C(C1=NC2=C(N1)C=CC(=C2)C#N)O | C26H22N4O
